US07790737B2
2-(Benzyloxy)-3-(dimethylamino)acrylaldehyde (10.95 g, 53.3 mmol) was dissolved in N-methylpyrrolidone (85 mL), the solution was added with guanidine hydrochloride (15.3 g, 160 mmol), and then the mixture was added with sodium hydride (50% in oil, 15.3 g, 320 mmol) with stirring on an ice bath, and stirred on an oil bath at 80° C. for 1 hour. The reaction mixture was added with water on an ice bath to decompose excessive sodium hydride, and then extracted with ether and water, and the organic layer was washed successively with water and saturated brine, dried over anhydrous sodium sulfate, and then concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (hexane:acetone=10:1→4:1→2:1→1:1), and the concentrated residue was washed with ether-hexane, and taken by filtration to obtain 5-(benzyloxy)pyrimidin-2-amine (6.99 g, 65%) as pale yellow solid.

reactant | 2-(Benzyloxy)-3-(dimethylamino)acrylaldehyde | 53.3 mmol, 10.95 g | C(C1=CC=CC=C1)OC(C=O)=CN(C)C | C12H15NO2
reactant | guanidine hydrochloride | 160 mmol, 15.3 g | Cl.NC(=N)N
reactant | sodium hydride | 320 mmol, 15.3 g | [H-].[Na+]
reactant | water | O | H2O
solvent | N-methylpyrrolidone | 85 mL | CN1C(CCC1)=O | C5H9NO
product | 5-(benzyloxy)pyrimidin-2-amine | 6.99 g, 65% | C(C1=CC=CC=C1)OC=1C=NC(=NC1)N | C11H11N3O
